US05352654
181.2 g of isopropylmercaptan are added dropwise at a temperature of 0° to +2° C. in the course of 25 minutes to a suspension of 324 g of anhydrous potassium carbonate and 335.6 g of 2,3-difluoropyridine in 4500 ml of dimethylformamide. After the reaction mixture has been stirred for 18 hours at room temperature, it is poured into a mixture of 8000 ml of ice-water and 4000 ml of ethyl acetate. The organic phase is subsequently separated off and washed with ice-water and then with ethyl acetate. The combined organic phases are dried with sodium sulfate and subsequently concentrated. Purification by column chromatography over silica gel with ethyl acetate/n-hexane (1:9) gives 362.9 g of 2-isopropylthio-3-fluoropyridine in the form of an oil.

reactant | isopropylmercaptan | 181.2 g | C(C)(C)S | C3H8S
reactant | potassium carbonate | 324 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-difluoropyridine | 335.6 g | FC1=NC=CC=C1F | C5H3F2N
reactant | ethyl acetate | 4000 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4500 ml | CN(C=O)C | C3H7NO
product | 2-isopropylthio-3-fluoropyridine | 362.9 g | C(C)(C)SC1=NC=CC=C1F | C8H10FNS
